US06534445B1
74.5 g of methyl 3-(1-acetylcyclopropyl)propionate (0.32 mol) are dissolved in 1 l of tetrahydrofuran and the solution is treated portionwise with 14.3 g of sodium hydride (55% suspension in oil, 0.32 mol) at room temperature. After 1 hour, the reaction mixture is diluted with 200 ml of dimethylformamide and warmed to 70° C. After 8 hours, tetrahydrofuran is removed in vacuo, and the residue is poured into 2 N hydrochloric acid and extracted with diethyl ether. The organic phase is dried over sodium sulfate and concentrated, and column chromatography over silica gel (methylene chloride:ethanol 9:1 as eluent) gives spiro[2.5]octane-4,6-dione in the form of white crystals of melting point 116-118° C.

reactant | methyl 3-(1-acetylcyclopropyl)propionate | 0.32 mol, 74.5 g | C(C)(=O)C1(CC1)CCC(=O)OC | C9H14O3
reactant | sodium hydride | 0.32 mol, 14.3 g | [H-].[Na+]
solvent | tetrahydrofuran | 1 l | O1CCCC1 | C4H8O
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | spiro[2.5]octane-4,6-dione | C1CC12C(CC(CC2)=O)=O | C8H10O2
